US05929298
A solution of 1.20 grams of 1-vinylcyclododecanol, 10 ml of toluene, and 20 mg of methylrhenium trioxide was refluxed 4 hrs, by which time VPC and TLC analyses indicated complete consumption of the starting material. The mixture was cooled, washed with 5% aqueous sodium carbonate solution to remove catalyst, and the organic phase dried (magnesium sulfate) and stripped of volatiles at reduced pressure. There was obtained 1.02 gram (93%) of 1-vinylcyclododecene as ca. 2:1 trans:cis mixture (VPC); NMR spectrum was in good agreement with that expected for the product.

reactant | 1-vinylcyclododecanol | 1.20 grams | C(=C)C1(CCCCCCCCCCC1)O | C14H26O
catalyst | methylrhenium trioxide | 20 mg | C[Re](=O)(=O)=O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-vinylcyclododecene | 1.02 gram, 93% | C(=C)C1=CCCCCCCCCCC1 | C14H24
